US08017792B2
Synthesis of 1-bromo-3-(4-ethoxybenzyl)-4,6-dimethoxybenzene
Preparation was performed in a similar manner as in Preparation Example 3 using 5-bromo-2,4-dimethoxybenzaldehyde and 4-bromophenetole.

reactant | 5-bromo-2,4-dimethoxybenzaldehyde | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | 4-bromophenetole | BrC1=CC=C(C=C1)OCC | C8H9BrO
product | 1-bromo-3-(4-ethoxybenzyl)-4,6-dimethoxybenzene | BrC1=CC(=C(C=C1OC)OC)CC1=CC=C(C=C1)OCC | C17H19BrO3
